* Analog Frontend
.subckt AnalogFrontend Vin Vout

* use the MCP6001 OP-Amp model
.include MCP6001.sub
* Instantiate the op amp like this:
* XOP1 IN+ IN- VCC VSS OUT MCP6001
*
* Use the BAS40 Diode model
.include BAS40.sub
* Initiate a diode like this:
* D1 N+ N- DI_BAS40

* Here are some fixed parameters used across the whole simulation
* The internal resistance of the multiplexer
* Somewhere between 150Ω and 80Ω 
.param rmul=100

* Supply voltage
V1 Vcc 0 DC 3.3
* The sum of all capacitors between Vcc and GND in the circuit
Csum Vcc 0 200n

* Generate the reference voltage
* Fixed Resistor:
RrefF Vcc VrefOut 90.9K
* Now there is the variable resistor
* The multiplexer itself introduces some resistance
RrefV VrefOut 0 {rmul + pref}
* Voltage follower of the op amp
XOP1 VrefOut VOP1out Vcc 0 VOP1out MCP6001
* Capacitor at the attenuator
Cref VrefOut 0 220nF

* First input stage: The attenuator
* (Possibly the analog coupling for the input signal can also be simulated)
* Attenuator
Rin1 Vin VAttOut 169K
Rin2 VAttOut VOP1out 18.7K
* The first one is a sum of the fixed 91pF capacitor
* and the variable trimmer cpacitor in its ideal position
Cin1 Vin VattOut 101pF
Cin2 VattOut VOP1out 910pF

* Second input stage: The Amplifier
XOP2 VattOut VAmpF Vcc 0 VOP2out MCP6001
RampF VOP2out VAmpF 75k
RampV VAmpF 0 {rmul + pamp} 

* Low pass filter and clamping
Rplf VOP2out Vadc 1.6M
Clpf Vadc 0 10p
DadcG 0 Vadc DI_BAS40
DadcV Vadc Vcc DI_BAS40

* Simulate the input impedance of the Pico ADC
* more information on this in the schematics
Rpico Vadc VadcR 100K
Cpico Vadc 0 1p

* Pseudo 9 bit ADC, quantisation only
* This does not take the sampling rate into account
Bin VADCout 0 V={floor(V(VadcR)/(V(Vcc)/(2**9)) + 0.5) * (V(Vcc)/(2**9))}

* Output signal
EOUT Vout 0 Value={v(VADCout)}

.ends AnalogFrontend
